US03996276
1,4,7,10-Tetraaza-13-phosphatricyclo[5.5.1.04,13 ]tridecane is prepared in the absence of a solvent by heating 5.0 g of 1,4,7,10-tetraazacyclododecane and 4.7 g of hexamethylphosphorous triamide together at about 75° C for between two and three hours and subliming the crude product at 75° C at 0.4 mm. The yield is 5.3 g (92%) of product melting at 106°-108° C.

reactant | 1,4,7,10-tetraazacyclododecane | 5.0 g | N1CCNCCNCCNCC1 | C8H20N4
reactant | hexamethylphosphorous triamide | 4.7 g | CN(P(N(C)C)N(C)C)C | C6H18N3P
product | 1,4,7,10-Tetraaza-13-phosphatricyclo[5.5.1.04,13 ]tridecane | N12CCN3CCN(CCNCC1)P23 | C8H17N4P
